US03984467
Following a procedure similar to that described in Example 42 but using 1.6 g. sodium in 200 ml. dry acetone, 12.3 g. heptanamidine hydrochloride, and 11.6 g. 4-fluorophenyl isothiocyanate (b.p. 48°C./0.025 mm.; prepared from 4-fluoroaniline) in 50 ml. dry acetone there was obtained 1-(4-fluorophenyl)-3-(heptanimidoyl)-2-thiourea, m.p. 75°-76°C. (from benzene-n-pentane); hydrochloride (17.1 g.), m.p. 155°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 4-fluorophenyl isothiocyanate | FC1=CC=C(C=C1)N=C=S | C7H4FNS
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-(4-fluorophenyl)-3-(heptanimidoyl)-2-thiourea | FC1=CC=C(C=C1)NC(=S)NC(CCCCCC)=N | C14H20FN3S
